US07091214B2
A solution of sodium hydroxide (25 g, 0.625 mol) in water (205 mL) was added to a solution of N-[7-bromo-4-(2-hydroxy-2-methylpropylamino)quinolin-3-yl]-2-ethoxyacetamide (170.88 g, 0.431 mol) in ethanol (700 mL), and the reaction was heated at reflux under a nitrogen atmosphere for two hours. Upon cooling the reaction, a precipitate formed and was isolated by filtration. The solid was purified by flash column chromatography on silica gel (eluting sequentially with chloroform, 99:1 chloroform:methanol, and 97:3 chloroform:methanol) to provide 80.31 g of 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol as a tan solid.

reactant | sodium hydroxide | 0.625 mol, 25 g | [OH-].[Na+]
reactant | N-[7-bromo-4-(2-hydroxy-2-methylpropylamino)quinolin-3-yl]-2-ethoxyacetamide | 0.431 mol, 170.88 g | BrC1=CC=C2C(=C(C=NC2=C1)NC(COCC)=O)NCC(C)(C)O | C17H22BrN3O3
solvent | water | 205 mL | O | H2O
solvent | ethanol | 700 mL | C(C)O | C2H6O
product | 1-(7-bromo-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)-2-methylpropan-2-ol | 80.31 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)COCC | C17H20BrN3O2
